US07629358B2
N-[2-(3-Fluorophenyl)ethyl]-3-[2-({(2R)-2-hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methylpropyl]benzamide
3-[2-({(2R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxylmethyl)phenyl]ethyl}amino)-2-methylpropyl]-N-[2-(3-fluorophenyl)ethyl]benzamide (preparation 157), (343 mg, 0.58 mmol) and ammonium fluoride (213 mg, 5.76 mmol) in methanol (12 mL) and water (2 mL) were stirred at room temperature for 42 hours. The solvent was removed in vacuo and the residue was purified by column chromatography on silica gel, eluting with dichloromethane:methanol:0.88 ammonia, 100:0:0 to 90:10:1. The appropriate fractions were concentrated in vacuo and the residue was azeotroped (×2) in ethanol to give a white solid. This solid was then re-crystallised with ethanol/water and dried under vacuum to afford the title compound as very pale yellow crystals in 52% yield, 144 mg. 1H NMR (400 MHz, CD3OD) δ: 7.63 (2H, m) 7.38-7.23 (4H, m), 7.13 (1H, m), 7.05 (1H, m), 7.00 (1H, m), 6.91 (1H, m), 6.85 (1H, d), 4.65 (3H, m), 3.59 (2H, m), 2.96-2.84 (2H, m), 2.78-2.68 (2H, m), 1.10 (3H, s), 1.04 (3H, s) ppm. LRMS ESI m/z 481 [M+H]+.

reactant | 3-[2-({(2R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxylmethyl)phenyl]ethyl}amino)-2-methylpropyl]-N-[2-(3-fluorophenyl)ethyl]benzamide | 0.58 mmol, 343 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(CC=1C=C(C(=O)NCCC2=CC(=CC=C2)F)C=CC1)(C)C)C1=CC(=C(C=C1)O)CO | C34H47FN2O4Si
reactant | ammonium fluoride | 5.76 mmol, 213 mg | [F-].[NH4+]
solvent | methanol | 12 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | N-[2-(3-Fluorophenyl)ethyl]-3-[2-({(2R)-2-hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methylpropyl]benzamide | 52% yield | FC=1C=C(C=CC1)CCNC(C1=CC(=CC=C1)CC(C)(C)NC[C@@H](C1=CC(=C(C=C1)O)CO)O)=O | C28H33FN2O4
